US04968606
The whole amount of washed cells (corresponding to 5 ml of the culture solution) of microorganisms shown in Table 2 prepared by culturing them in a manner similar to Example 1 was added to 5 ml of 0.3 M phosphate buffer (adjusted final pH to 7.0) containing 50 mM of orotidine or orotidic acid and 50 mM of 1,2,4-triazole-3-carboxamide followed by reacting at 60° C. for 5 hours. The concentration of ribavirin produced in each reaction solution was measured by a known method using high performance liquid chromatography. The results are shown in Table 2.

reactant | phosphate | 0.3 M, 5 ml | P(=O)([O-])([O-])[O-]
reactant | orotidine | 50 mM | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1C(=O)O | C10H12N2O8
reactant | 1,2,4-triazole-3-carboxamide | 50 mM | N1N=C(N=C1)C(=O)N | C3H4N4O
product | ribavirin | C1=NC(=NN1[C@H]2[C@@H]([C@@H]([C@H](O2)CO)O)O)C(=O)N | C8H12N4O5
